US06420424B1
(S)-Ethyl-2-tert-butyloxycarbonylamino-3-(4-acetamidophenyl)propionate
(S)-Ethyl-2-tert-butyloxycarbonylamino-3-(4-aminophenyl)propionate (0.10 g, 0.31 mmol) was dissolved in ethyl acetate (4 mL). Acetic anhydride (1 eq, 0.31 mmol, 0.030 mL) was added and the pale peach solution was heated to reflux, stirring at this temperature for 6.5 hours. The heating bath was removed and the flask allowed to cool to room temperature overnight. The solution was then poured into aqueous saturated NaHCO3 and extracted. The organic portion was washed again with sat. NaHCO3, then it was dried over MgSO4, filtered, and concentrated. Trituration with diethyl ether induced precipitation of a pale pink solid (0.09 g, 84%).

reactant | (S)-Ethyl-2-tert-butyloxycarbonylamino-3-(4-aminophenyl)propionate | 0.31 mmol, 0.10 g | C(C)OC([C@H](CC1=CC=C(C=C1)N)NC(=O)OC(C)(C)C)=O | C16H24N2O4
reactant | Acetic anhydride | 0.31 mmol, 0.030 mL, 1 eq | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | (S)-Ethyl-2-tert-butyloxycarbonylamino-3-(4-acetamidophenyl)propionate | C(C)OC([C@H](CC1=CC=C(C=C1)NC(C)=O)NC(=O)OC(C)(C)C)=O | C18H26N2O5
